* C:\Users\gabri\Code\Filt_Project\Circuito.asc
* Generated by LTspice 26.0.1 for Windows.
C1 N007 N006 10µ
R2 N007 0 1720
C2 N006 N005 10µ
V3 N005 0 AC 1
X§U2 N004 N002 VMAIS VMENOS N002 LT1001 ;§pnba In+)In-)V+)V-)OUT
C3 N004 N003 10µ
R4 N004 0 4120
C4 N003 N001 10µ
X§U1 N007 N001 VMAIS VMENOS N001 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
V1 VMAIS 0 12V
V2 0 VMENOS 12V
R1 N001 N006 1470
R3 N002 N003 620
.ac dec 1000 1 10000
;.tran 0 1 0
* Library below included based on ModelFile attribute of instance X§U2 (C:\Users\gabri\AppData\Local\LTspice\lib\sym\OpAmps\OP07.asy)
.lib LTC.lib
* Library below included based on ModelFile attribute of instance X§U1 (C:\Users\gabri\AppData\Local\LTspice\lib\sym\OpAmps\UniversalOpAmp.asy)
.lib UniversalOpAmp1.lib
.backanno
.end
